** Name: SymmetricalOpAmp114

.MACRO SymmetricalOpAmp114 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=496e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=63e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=41e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=95e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=580e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=109e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=580e-6
mNormalTransistorNmos9 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=2e-6 W=294e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=113e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=470e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=496e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=244e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=56e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=56e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=56e-6
mNormalTransistorPmos21 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=56e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp114

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 11.5851 mW
** Area: 14740 (mu_m)^2
** Transit frequency: 63.0881 MHz
** Transit frequency with error factor: 63.0882 MHz
** Slew rate: 65.3465 V/mu_s
** Phase margin: 67.0361°
** CMRR: 140 dB
** negPSRR: 134 dB
** posPSRR: 63 dB
** VoutMax: 4.25 V
** VoutMin: 0.550001 V
** VcmMax: 4.83001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 161.168 muA
** NormalTransistorNmos: 416.289 muA
** NormalTransistorPmos: -406.605 muA
** NormalTransistorPmos: -329.796 muA
** NormalTransistorPmos: -329.797 muA
** NormalTransistorPmos: -329.796 muA
** NormalTransistorPmos: -329.797 muA
** NormalTransistorNmos: 659.594 muA
** NormalTransistorNmos: 329.797 muA
** NormalTransistorNmos: 329.797 muA
** NormalTransistorNmos: 331.677 muA
** NormalTransistorNmos: 331.676 muA
** NormalTransistorPmos: -331.676 muA
** NormalTransistorPmos: -331.677 muA
** DiodeTransistorNmos: 331.677 muA
** NormalTransistorPmos: -331.676 muA
** NormalTransistorPmos: -331.677 muA
** DiodeTransistorNmos: 406.606 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -161.167 muA
** DiodeTransistorPmos: -416.288 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.86101  V
** innerComplementarySecondStage: 0.582001  V
** out: 2.5  V
** out1FirstStage: 3.86101  V
** out2FirstStage: 3.68601  V
** outVoltageBiasXXnXX1: 0.960001  V
** outVoltageBiasXXpXX0: 3.90501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.42501  V
** innerTransistorStack2Load1: 4.42501  V
** sourceTransconductance: 1.93101  V
** innerStageBias: 0.177001  V
** innerTransconductance: 4.42501  V
** inner: 4.42501  V


.END