** Name: SymmetricalOpAmp116

.MACRO SymmetricalOpAmp116 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=57e-6
mDiodeTransistorPmos3 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=45e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=186e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=2e-6 W=218e-6
mNormalTransistorNmos7 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=216e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=186e-6
mNormalTransistorNmos9 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=2e-6 W=213e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=23e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=419e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=393e-6
mNormalTransistorNmos13 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=393e-6
mNormalTransistorPmos14 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=315e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos16 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos17 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos18 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=75e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=76e-6
mNormalTransistorPmos21 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=76e-6
mNormalTransistorPmos22 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=76e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp116

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 12.3521 mW
** Area: 9869 (mu_m)^2
** Transit frequency: 80.8791 MHz
** Transit frequency with error factor: 80.8793 MHz
** Slew rate: 81.7817 V/mu_s
** Phase margin: 63.5984°
** CMRR: 142 dB
** negPSRR: 116 dB
** posPSRR: 62 dB
** VoutMax: 4.25 V
** VoutMin: 0.370001 V
** VcmMax: 4.85001 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 46.3021 muA
** NormalTransistorNmos: 426.443 muA
** NormalTransistorPmos: -328.775 muA
** NormalTransistorPmos: -413.408 muA
** NormalTransistorPmos: -413.409 muA
** NormalTransistorPmos: -413.408 muA
** NormalTransistorPmos: -413.409 muA
** NormalTransistorNmos: 826.818 muA
** NormalTransistorNmos: 413.409 muA
** NormalTransistorNmos: 413.409 muA
** NormalTransistorNmos: 416.056 muA
** NormalTransistorNmos: 416.055 muA
** NormalTransistorPmos: -416.055 muA
** NormalTransistorPmos: -416.056 muA
** NormalTransistorNmos: 416.056 muA
** NormalTransistorNmos: 416.055 muA
** NormalTransistorPmos: -416.055 muA
** NormalTransistorPmos: -416.056 muA
** DiodeTransistorNmos: 328.776 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -46.3029 muA
** DiodeTransistorPmos: -426.442 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.776001  V
** inSourceTransconductanceComplementarySecondStage: 3.88201  V
** innerComplementarySecondStage: 0.563001  V
** out: 2.5  V
** out1FirstStage: 3.88201  V
** out2FirstStage: 3.68601  V
** outVoltageBiasXXpXX0: 3.75401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.44601  V
** innerTransistorStack2Load1: 4.44601  V
** sourceTransconductance: 1.93301  V
** innerStageBias: 0.158001  V
** innerTransconductance: 4.44601  V
** inner: 0.158001  V
** inner: 4.44601  V


.END