** Name: SymmetricalOpAmp14

.MACRO SymmetricalOpAmp14 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=112e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=19e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=112e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=14e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=113e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=270e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=270e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=320e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=320e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=262e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=224e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=113e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=262e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=591e-6
mNormalTransistorPmos16 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp14

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 9.17801 mW
** Area: 4057 (mu_m)^2
** Transit frequency: 90.4821 MHz
** Transit frequency with error factor: 90.4822 MHz
** Slew rate: 120.847 V/mu_s
** Phase margin: 60.7336°
** CMRR: 144 dB
** negPSRR: 51 dB
** posPSRR: 72 dB
** VoutMax: 3.33001 V
** VoutMin: 0.310001 V
** VcmMax: 3.94001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -160.178 muA
** DiodeTransistorNmos: 215.106 muA
** DiodeTransistorNmos: 215.106 muA
** NormalTransistorPmos: -430.211 muA
** NormalTransistorPmos: -215.105 muA
** NormalTransistorPmos: -215.105 muA
** NormalTransistorNmos: 609.483 muA
** NormalTransistorNmos: 609.482 muA
** NormalTransistorPmos: -609.482 muA
** DiodeTransistorPmos: -609.483 muA
** DiodeTransistorPmos: -615.637 muA
** NormalTransistorPmos: -615.638 muA
** NormalTransistorNmos: 615.638 muA
** NormalTransistorNmos: 615.637 muA
** DiodeTransistorNmos: 160.179 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.15201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.719001  V
** inSourceStageBiasComplementarySecondStage: 3.88401  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.76801  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.27801  V
** innerTransconductance: 0.150001  V
** inner: 3.88201  V
** inner: 0.150001  V


.END